US05576321
Preparation of 3-[4-(6-chloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)propane
The title compound was prepared in a fashion similar to that described in Example 99 using 1-chloro-3-(1H-indole-4-oxy)propane (0.446 g, 2.15 mmol) and 6-chloro-3-(piperidin-4-yl)-1H-indole (0.500 g, 2.13 mmol) in the presence of 2.0 equivalents of potassium carbonate (0.593 g, 4.3 mmol) in dimethylformamide at 90° C. Yield 0.330 g (37%) of a colorless foam. FDMS m/e=407 (M+ of free base).

reactant | 1-chloro-3-(1H-indole-4-oxy)propane | 2.15 mmol, 0.446 g | ClCCCOC=1C=2C=CNC2C=CC1 | C11H12ClNO
reactant | 6-chloro-3-(piperidin-4-yl)-1H-indole | 2.13 mmol, 0.500 g | ClC1=CC=C2C(=CNC2=C1)C1CCNCC1 | C13H15ClN2
reactant | potassium carbonate | 4.3 mmol, 0.593 g, 2.0 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[4-(6-chloro-3-indolyl)piperidin-1-yl]-1-(4-indolyloxy)propane | ClC1=CC=C2C(=CNC2=C1)C1CCN(CC1)CCCOC1=C2C=CNC2=CC=C1 | C24H26ClN3O
